US07517532B2
Step 1: N2-(4-Fluorobenzyl)pyridine-2,3-diamine
A mixture of 2-(4-fluorobenzylamino)-3-nitropyridine (1.0 g, 4.05 mmol) and 10% Pd/C (0.3 g) in methanol (50 mL) was stirred under an atmosphere of hydrogen (1 atm) at room temperature for 5 hours. The product mixture was filtered through a pad of Celite, and concentrated under vacuum. The residual methanol was removed by co-evaporation with benzene. The resultant N2-(4-Fluorobenzyl)pyridine-2,3-diamine was used in the following step without further purification.

reactant | 2-(4-fluorobenzylamino)-3-nitropyridine | 4.05 mmol, 1.0 g | FC1=CC=C(CNC2=NC=CC=C2[N+](=O)[O-])C=C1 | C12H10FN3O2
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | N2-(4-Fluorobenzyl)pyridine-2,3-diamine | FC1=CC=C(CNC2=NC=CC=C2N)C=C1 | C12H12FN3
